Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Status post mechanical fall
 
Major Surgical or Invasive Procedure:
___: Successful right common femoral artery approach 
embolization of the proximal splenic artery. 

 
History of Present Illness:
___ female who fell at work, hit L side on xray machine, no LOC, 
no HS, found to have Grade ___ splenic laceration on OSH CT with 
perisplenic hematoma.  HCT
dropped from 33 to 28, then repeat stable at 28.  HD stable now. 
No units PRBC given.  

 
Past Medical History:
PMH: HTN

PSH: none

___: HCTZ 12.5'
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

VS: BP: 122/74, HR: 82, O2: 98% RA
Patient is well-appearing and in no acute distress
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Neck is supple
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Mildly tender to the patient along the left upper
flank and left lower ribs, Soft, Nondistended
Extr/Back: No cyanosis, clubbing or edema, 2+ radial and
pedal pulses bilaterally, digits are warm well-perfused
Skin: No rash, Warm and dry
Neuro: Speech fluent, moving all extremities
Psych: Normal mood

Discharge Physical Exam:
VS: 98.9 PO BP: 135/69 HR: 97 RR: 18 O2: 96% RA 
GEN:A+Ox3, NAD
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
GU: R groin ___ femoral access site scabbed
EXT: warm, well-perfused, no edema b/l
 
Pertinent Results:
___ 03:28PM   HCT-28.3*
___ 09:44AM   HCT-28.3*
___ 07:51AM   GLUCOSE-119* UREA N-9 CREAT-0.6 SODIUM-139 
POTASSIUM-3.2* CHLORIDE-102 TOTAL CO2-26 ANION GAP-14
___ 07:51AM   CALCIUM-8.2* PHOSPHATE-3.3 MAGNESIUM-1.8
___ 07:51AM   ___ PTT-24.2* ___
___ 05:42AM   HCT-28.8*
___ 01:30AM   HGB-10.9* HCT-33.3*
___ 09:07PM   PO2-72* PCO2-43 PH-7.42 TOTAL CO2-29 BASE 
XS-2 COMMENTS-GREEN TOP
___ 09:07PM   GLUCOSE-127* LACTATE-1.3 NA+-135 K+-3.4 
CL--97
___ 09:07PM   HGB-12.4 calcHCT-37 O2 SAT-93 CARBOXYHB-2 MET 
HGB-0.1
___ 09:07PM   freeCa-1.04*
___ 08:55PM   UREA N-13 CREAT-0.6
___ 08:55PM   estGFR-Using this
___ 08:55PM   LIPASE-36
___ 08:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:55PM   WBC-21.1* RBC-3.57* HGB-11.8 HCT-34.9 MCV-98 
MCH-33.1* MCHC-33.8 RDW-12.4 RDWSD-44.7
___ 08:55PM   PLT COUNT-185
___ 08:55PM   ___ PTT-23.0* ___
___ 08:55PM   ___

IMAGING:

___: CXR:
 
No acute findings. 

___: Splenic embolization:
  
Successful right common femoral artery approach embolization of 
the proximal splenic artery. 

 
Brief Hospital Course:
- ICU COURSE - 
Ms. ___ is a ___ s/p mechanical fall with radiographic 
evidence of grade ___ splenic injury. She was hemodynamically 
stable with stable hct without need for transfusions. However, 
given the extent of injury, the patient underwent prophylactic 
central splenic artery coiling by Interventional Radiology. No 
extravasation was seen during the procedure and the patient did 
well post-procedure. She remains hemodynamically stable and her 
hct was 28. Repeat hct was the same. As such, the patient was 
written for a regular diet and transferred to the floor. 

She remained A&Ox3 throughout ICU course. Pain was minimal. 
Cardiovascular functions were monitored noninvasively. Pulmonary 
toilet was encouraged with incentive spirometry.  Her fluid 
balance was recorded and electrolytes were repleted 
appropriately. she was afebrile. The patient was then 
transferred to the surgical floor. 

- FLOOR COURSE -
The patient's HCT remained stable at 26.4 x 2.  Vital signs were 
stable.  The patient was restarted on her home blood pressure 
medication.  Pain was controlled with oral acetaminophen.  She 
remained alert and oriented throughout hospitalization.  She 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored. Good pulmonary toilet, 
early  The patient tolerated a regular diet. Patient's intake 
and output were closely monitored
The patient's fever curves were closely watched for signs of 
infection, of which there were none.  Subcutaneous heparin was 
held and ___ dyne boots were used during this stay and she was 
encouraged to get up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  The patient stated she would 
prefer a follow-up appointment with a General Surgeon closer to 
home and that she would arrange this.  She was also provided 
with the ___ clinic number. 

 
Medications on Admission:
HCTZ 12.5'
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID:PRN constipation   
3.  Senna 8.6 mg PO BID:PRN constipation   
4.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall:
-Grade 3 to 4 splenic laceration 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
a fall and were found to have a splenic injury.  Given the 
extent of the injury, you underwent splenic embolization by 
Interventional Radiology to stop and prevent further bleeding.  
You tolerated this procedure well.  Your blood counts have 
remained stable, you are tolerating a regular diet and your pain 
is better controlled.  You are now ready to be discharged home 
to continue your recovery. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

Spleen laceration Instructions:

*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having internal bleeding from your 
liver or spleen injury.
 
*AVOID any blood thinners such as Motrin, Naprosyn, Indocin, 
Aspirin, Coumadin or Plavix for at least ___ days unless 
otherwise instructed by the MD/NP/PA.

 
Followup Instructions:
___